* OVERALL BEST CANDIDATE: 00_Phase_1_24V_Industrial_to_12V_Bus_Buck_g1_cand3_b10
* FITNESS SCORE: 0.6484
*
* Generated: 2026-05-31T21:55:42
* Constraint: Phase 1: 24V Industrial to 12V Bus (Buck)
*   vin_min = 20
*   vin_max = 28
*   vout_target = 12
*   efficiency_target = 0.82
*   power_in = 30
* Candidate: 3 of 8
* Grouped name: g1_cand3
*
* 20V to 12V Buck, D=0.6
Vin in 0 20
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 100u
Rload out 0 0.48
Vgate gate 0 PULSE(0 12 0 1n 1n 6.666u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
